US03966815
6,7,8,9-Tetrahydro-3-Methoxy-5-Methyl-5,8-Methano-5H-Benzocyclohepten-10-Amine
A solution of 8,9-dihydro-3-methoxy-5-methyl-5,8-methano-5H-benzocyclohepten-10-amine [1.0 g. of α,β-amine mixture (9:1)] in 100 ml. of ethanol is hydrogenated over 150 mg. of platinum oxide catalyst under 48 psi hydrogen pressure in a Parr apparatus. Uptake of hydrogen is complete in one-half hour. The catalyst is filtered and the filtrate is concentrated. Gas chromatography of the residue identified it as a 9:1 mixture of α/β 6,7,8,9-tetrahydro-3-methoxy-5-methyl-5,8-methano-5H-benzocycloheptene-10-amine.

reactant | 8,9-dihydro-3-methoxy-5-methyl-5,8-methano-5H-benzocyclohepten-10-amine | 1.0 g | COC1=CC2=C(CC3C=CC2(C3N)C)C=C1 | C14H17NO
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 6,7,8,9-Tetrahydro-3-Methoxy-5-Methyl-5,8-Methano-5H-Benzocyclohepten-10-Amine | COC1=CC2=C(CC3CCC2(C3N)C)C=C1 | C14H19NO
